US05847153
A suspension of N-benzyloxy-2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionamide (5.0 g, 9.4 mmol), Pearlman's catalyst (0.9 g), and ethyl alcohol (50 mL) is agitated under hydrogen (20 psig) at room temperature overnight. The reaction mixture is filtered through celite and the soluble solids dissolved with methyl alcohol followed by chloroform/methyl alcohol (9:1). The combined filtrates are concentrated in vacuo to yield N-hydroxy-2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionamide as a white solid.

reactant | N-benzyloxy-2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionamide | 9.4 mmol, 5.0 g | C(C1=CC=CC=C1)ONC(C(CS(=O)(=O)C1=CC=C(C=C1)OC)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H27NO8S2
catalyst | Pearlman's catalyst | 0.9 g | [OH-].[OH-].[Pd+2]
solvent | ethyl alcohol | 50 mL | C(C)O | C2H6O
product | N-hydroxy-2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionamide | ONC(C(CS(=O)(=O)C1=CC=C(C=C1)OC)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H21NO8S2
